US04342765
To a solution of 2-guanidino-4-(3-aminocyclopentyl)thiazole (0.3 g.) in ethanol (5 ml.) was added methyl isothiocyanate (0.15 g.) and the mixture heated under reflux for 1 hour. The reaction mixture was evaporated to dryness and the residue subjected to preparative thin layer chromatography on silica gel GF plates (Uniplate, Analtech Inc., Delaware, U.S.A.) using chloroform/methanol/aqueous ammonia (s.g. 0.88) 135:15:1 v/v/v for development. The appropriate region of the chromatogram was eluted with warm ethanol/chloroform (3:1 v/v) and the extract evaporated to give 2-guanidino-4-[3-(3-methylthioureido)cyclopentyl]thiazole as a light brown glass. The n.m.r. spectrum in d6 dimethyl sulphoxide included signals at 1.2-2.2 (m) 2.8 (d, 3H) 4.2 (br m, 1H), 6.27 (s, 1H) and 6.78 (br s, 4H).

reactant | 2-guanidino-4-(3-aminocyclopentyl)thiazole | 0.3 g | N(C(=N)N)C=1SC=C(N1)C1CC(CC1)N | C9H15N5S
reactant | methyl isothiocyanate | 0.15 g | CN=C=S | C2H3NS
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-guanidino-4-[3-(3-methylthioureido)cyclopentyl]thiazole | N(C(=N)N)C=1SC=C(N1)C1CC(CC1)NC(=S)NC | C11H18N6S2
